US06001867
2-All-3-yl-benzo[b]thiophene
n-Butyl lithium (16.7 ml, 2.5 N in hexanes) was added dropwise to a stirred solution of thianaphthene (5.0 g, 37.3 mmol) in THF (80 mL) at -78° C. under a dry N2 atmosphere. After the addition wascompleted, the mixture was warmed up and stirred at 0° C. for 30 min. Allylbromide (16.1 mL, 186.5 mmol ) was added. After an additional 3.5 h., sat. aq. NH4Cl was added and the reaction mixture was partitioned between water and ether. The ether phase was washed with brine and dried. Silica gel (120 mL) was added. Solvents were removed and the silica adsorbate was flash chromatographed (eluent petroleum ether) to provide the title compound as an oil (3.74 g, 58%): NMR (CDCl3); δ 7.76 (d, J=9 Hz, 1H), 7.66 (d, J=9 Hz, 1H), 7.36-7.20 (m, 2H), 7.02 (s, 1H), 6.14-5.96 (m, 1H), 5.22 (dd, J=2, 17 Hz, 1H), 5.16 (dd, J=2, 17 Hz, 1H), 3.66 (d, J=8 Hz, 2H); MS (EI): [M+] 174 (100%); Anal. Calc. for C11H10S: C, 75.82, H, 5.78, N, 0.00. Found: C, 72.88, H, 5.56, N, 0.13.

reactant | n-Butyl lithium | 2.5 N, 16.7 ml | C(CCC)[Li]
reactant | thianaphthene | 37.3 mmol, 5.0 g | C=1C=CC2=C(C1)C=CS2 | C8H6S
reactant | Allylbromide | 186.5 mmol, 16.1 mL | C(C=C)Br | C3H5Br
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 2-All-3-yl-benzo[b]thiophene | 3.74 g, 58% | CC=CC1=CC2=C(S1)C=CC=C2 | C11H10S
